US04352815
15.0 g of 7-bromo-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5 (1H)-dione and 7.5 g of copper (I) cyanide (freshly prepared) are mixed well in a mortar and heated from 165° to 195° with 7.2 ml of dry pyridine (freshly distilled over potassium hydroxide) under argon over a period of 3 hours. After cooling to 150°, the solid mass is dissolved in about 250 ml of boiling dimethylformamide. The mixture is left to cool, poured into 800 ml of ice-water and extracted three times with 500 ml of chloroform each time. The organic extracts are washed with 250 ml of 2N hydrochloric acid and three times with 500 ml of water each time, dried in the presence of active carbon and evaporated. The residue is dissolved in about 1 l of methanol. The solution is concentrated to a volume of 250 ml, treated with active carbon and cooled to 5°. The precipitated material is filtered off under suction and dried, there being obtained 7-cyano-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione as white crystals of melting point 256-258°.

reactant | 7-bromo-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5 (1H)-dione | 15.0 g | BrC=1C=CC2=C(C(N(CC(N2)=O)C)=O)C1 | C10H9BrN2O2
reactant | copper (I) cyanide | 7.5 g | [Cu]C#N
solvent | pyridine | 7.2 ml | N1=CC=CC=C1 | C5H5N
product | 7-cyano-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | C(#N)C=1C=CC2=C(C(N(CC(N2)=O)C)=O)C1 | C11H9N3O2
